US09126993B2
1-azabicyclo[2.2.2]oct-3-yl {2-[4-fluoro-3-(furan-3-yl)phenyl]propan-2-yl}carbamate
Using general procedure E, 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromo-4-fluorophenyl)propan-2-yl]carbamate (110 mg, 0.296 mmol), furan-3-boronic acid (47.9 mg, 0.428 mmol) and tris(dibenzylideneacetone)dipalladium(0) gave the title compound as a white solid (47 mg, 44%). 1H NMR (400 MHz, CDCl3) δ 7.88 (ddd, J=0.9, 1.5, 2.5 Hz, 1H), 7.53 (dd, J=2.5, 7.1 Hz, 1H), 7.50 (t, J=1.7 Hz, 1H), 7.31-7.23 (m, 1H), 7.08 (dd, J=8.6, 10.6 Hz, 1H), 6.76 (dt, J=0.8, 1.7 Hz, 1H), 5.22 (s, 1H), 4.62 (s, 1H), 3.40-2.11 (m, 6H), 2.02-0.87 (m, 5H), 1.59 (dd, J=11.6, 70.3 Hz, 6H) ppm. 13C NMR (100 MHz, CDCl3) δ 160.0, 157.5, 150.2, 143.9, 127.44, 127.36, 127.0, 126.1, 123.8, 116.6, 116.4, 71.5, 55.9, 55.0, 47.6, 46.7, 30.1, 29.9, 25.6, 24.8, 19.8 ppm. Purity: 96% UPLCMS (210 nm); retention time 0.85 min; (M+1) 372.9.

reactant | 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromo-4-fluorophenyl)propan-2-yl]carbamate | 0.296 mmol, 110 mg | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=CC(=C(C=C2)F)Br)=O | C17H22BrFN2O2
reactant | furan-3-boronic acid | 0.428 mmol, 47.9 mg | O1C=C(C=C1)B(O)O | C4H5BO3
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-azabicyclo[2.2.2]oct-3-yl {2-[4-fluoro-3-(furan-3-yl)phenyl]propan-2-yl}carbamate | 47 mg, 44% | FC1=C(C=C(C=C1)C(C)(C)NC(OC1CN2CCC1CC2)=O)C2=COC=C2 | C21H25FN2O3
